US06541638B2
148 mg (0.33 mmol) (3S,5S)-Thioacetic acid S-[1-(naphthalene-2-sulfonyl)-5-(piperidine-1-carbonyl)-pyrrolidin-3-yl] ester in 9 ml THF were treated with 9 ml 0.1M LiOH for 30 min at 0° C. and 1h at RT. The solution was extracted with ether, the inorganic phase was acidified with 1M KHSO4 and extracted with EtOAc. The EtOAc phase was washed with brine and dried over Na2SO4, trituration with hexane gave 99 mg (74%) (2S,4S)-[4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidin-2-yl]-piperidin-1-yl-methanone as white solid, MS: 405 (MH+).

reactant | (3S,5S)-Thioacetic acid S-[1-(naphthalene-2-sulfonyl)-5-(piperidine-1-carbonyl)-pyrrolidin-3-yl] ester | 0.33 mmol, 148 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1C[C@H](C[C@H]1C(=O)N1CCCCC1)SC(C)=O | C22H26N2O4S2
reactant | LiOH | 0.1M, 9 ml | [Li+].[OH-]
solvent | THF | 9 ml | C1CCOC1 | C4H8O
product | (2S,4S)-[4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidin-2-yl]-piperidin-1-yl-methanone | 99 mg, 74% | S[C@H]1C[C@H](N(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C(=O)N1CCCCC1 | C20H24N2O3S2
